US07977331B1
To a suspension of (S)-3-(2-methoxyethyl)piperidine hydrochloride (46.70 g, 260 mmol), sodium acetate (46.90 g, 572 mmol) and acetic acid (33.1 ml, 572 mmol) in tetrahydrofuran (470 ml) was added dropwise chloroacetyl chloride (28.3 ml, 7.53 mmol) under ice-cooling, and the mixture was stirred overnight at temperature. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give (S)-3-(2-methoxyethyl)-N-(chloroacetyl)piperidine (45.0 g, yield 78.8%).

reactant | (S)-3-(2-methoxyethyl)piperidine hydrochloride | 260 mmol, 46.70 g | Cl.COCC[C@H]1CNCCC1
reactant | sodium acetate | 572 mmol, 46.90 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 572 mmol, 33.1 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 470 ml | O1CCCC1 | C4H8O
catalyst | chloroacetyl chloride | 7.53 mmol, 28.3 ml | ClCC(=O)Cl | C2H2Cl2O
product | (S)-3-(2-methoxyethyl)-N-(chloroacetyl)piperidine | 45.0 g, yield 78.8% | COCC[C@H]1CN(CCC1)C(CCl)=O | C10H18ClNO2
